US05260449
A. N-Pentyl-N2-[(phenylmethoxy)carbonyl]-L-serinamide
A 5-L, 3-necked flask was charged with N-CBZ-L-serine (110 g, 0.46 mole) (CBZ =carbobenzyloxy) followed by dichloromethane (2.1 L). The resulting slurry was stirred under argon and treated with triethylamine (61.7 mL, 0.443 mole) over several minutes. The resulting hazy solution was cooled to an internal temperature of -35° and treated over 10 minutes with trimethylacetylchloride (51.06 mL, 0.415 mole) such that the internal temperature did not rise above -30°. The reaction was stirred an additional 40 minutes at -25° to -30°, treated with pyridine (35.2 mL, 0.435 mole) over 5 minutes and stirred an additional 10 minutes. Amylamine (51 mL, 0.44 mole) was added over 10 minutes while maintaining the internal temperature at -25° to -29°. The reaction was stirred for 30 minutes while warming to -25°. A precipitate formed during this warming. The reaction was further warmed to -10° over 40 minutes during which time the precipitate redissolved. After stirring an additional 20 minutes at -10°, the reaction was quenched by the addition of 500 mL of 1N HCl. The biphasic mixture was stirred for 20 minutes and transferred to a separatory funnel. The aqueous layer was extracted with dichloromethane (2×75 mL). The combined dichloromethane solutions were concentrated in vacuo to a weight of 500 g. Ethyl acetate (EtOAc) (2.25 L) was added and the organic solution was washed with 1N HCl (2×400 mL) and 1N K2CO3 (1×700 mL and 2×500 mL). The organic solution was dried (magnesium sulfate), filtered and concentrated in vacuo to the title compound which was used in the next step without purification.

reactant | N-CBZ-L-serine | 0.46 mole, 110 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | triethylamine | 0.443 mole, 61.7 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetylchloride | 0.415 mole, 51.06 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | pyridine | 0.435 mole, 35.2 mL | N1=CC=CC=C1 | C5H5N
reactant | Amylamine | 0.44 mole, 51 mL | C(CCCC)N | C5H13N
solvent | dichloromethane | 2.1 L | ClCCl | CH2Cl2
product | N-Pentyl-N2-[(phenylmethoxy)carbonyl]-L-serinamide | C(CCCC)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C16H24N2O4
